US07700641B2
B. Synthesis of 3-(5-hydroxy-2-methyl-1,3-benzothiazol-6-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one
A suspension of 3-hydroxy-3-(5-hydroxy-2-methyl-1,3-benzothiazol-6-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one (0.50 g, 1.31 mmol) in hydroiodic acid (10.0 mL) was refluxed for 1.5 days. The reaction mixture was concentrated in vacuo to dryness. The residue was used directly in next step.

reactant | 3-hydroxy-3-(5-hydroxy-2-methyl-1,3-benzothiazol-6-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | 1.31 mmol, 0.50 g | OC1(C(N(C2=CC=CC=C12)CCCCC)=O)C1=CC2=C(N=C(S2)C)C=C1O | C21H22N2O3S
solvent | hydroiodic acid | 10.0 mL | I | HI
product | 3-(5-hydroxy-2-methyl-1,3-benzothiazol-6-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | OC=1C(=CC2=C(N=C(S2)C)C1)C1C(N(C2=CC=CC=C12)CCCCC)=O | C21H22N2O2S
